US09388189B2
(S)—N-(4-Hydroxy-3-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)methanesulfonamide
(S)—N-(4-Hydroxy-3-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)methanesulfonamide (102 mg, 0.15 mmol) was treated with trifluoroacetic acid (2.7 ml, 35.05 mmol) and a solution of ammonia (7N in methanol, 2.7 ml, 19 mmol) according to the method described in Example 27 to give 26 mg (29% yield) of the title compound. Purity 93%.

reactant | (S)—N-(4-Hydroxy-3-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)methanesulfonamide | 0.15 mmol, 102 mg | OC1=C(C=C(C=C1)NS(=O)(=O)C)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C34H40N8O5SSi
reactant | trifluoroacetic acid | 35.05 mmol, 2.7 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 19 mmol, 7N, 2.7 ml | N | H3N
product | (S)—N-(4-Hydroxy-3-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)methanesulfonamide | 26 mg, 29% yield | OC1=C(C=C(C=C1)NS(=O)(=O)C)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C | C28H26N8O4S
